US08071592B2
(d) 1-[2-(4-Amino-1-piperidinyl)ethyl]-7-fluoro-4-(methyloxy)-2(1H)-quinolinone
1,1-Dimethylethyl (1-{2-[7-fluoro-4-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-4-piperidinyl)carbamate (0.40 g, 0.95 mmol) was stirred in 1,4-dioxane (15 ml) containing 4M HCl for 5 h, then concentrated. The resulting solid was portioned between ethyl acetate and sodium carbonate solution and the aqueous extracted with ethyl acetate. The organics were dried and concentrated to an oil which contained highly impure product. Analysis of the aqueous by 1 c/ms showed the product to primarily reside in the aqueous fraction. The aqueous was concentrated and the resulting solids washed with dichloromethane containing methanol (10%) which on evaporation provided material which was washed once more with dichloromethane containing methanol (10%). Concentration of the solution provided the title compound (0.114 g, 37%).

reactant | 1,1-Dimethylethyl (1-{2-[7-fluoro-4-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-4-piperidinyl)carbamate | 0.95 mmol, 0.40 g | FC1=CC=C2C(=CC(N(C2=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O)OC | C22H30FN3O4
reactant | HCl | 4M | Cl | ClH
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 1-[2-(4-Amino-1-piperidinyl)ethyl]-7-fluoro-4-(methyloxy)-2(1H)-quinolinone | 0.114 g, 37% | NC1CCN(CC1)CCN1C(C=C(C2=CC=C(C=C12)F)OC)=O | C17H22FN3O2
